US08124610B2
5-bromo-N-(thiazol-2-yl)pyridine-2-sulfonamide
To 2-AMINOTHIAZOLE (0.29 g, 0.0029 mol) in Pyridine (2 mL, 0.02 mol) was added portionwise 5-Bromo-pyridine-2-sulfonyl chloride (0.50 g, 0.0019 mol). The reaction mixture was stirred at room temperature for 24 h. The reaction mixture was concentrated under reduced pressure, diluted with Ethyl acetate, washed with 1.0 N HCl, H2O and brine, dried with anhydrous sodium sulfate, filtered and concentrated to give the product was obtained as a yellow solid.

reactant | 2-AMINOTHIAZOLE | 0.0029 mol, 0.29 g | NC=1SC=CN1 | C3H4N2S
reactant | Pyridine | 0.02 mol, 2 mL | N1=CC=CC=C1 | C5H5N
reactant | 5-Bromo-pyridine-2-sulfonyl chloride | 0.0019 mol, 0.50 g | BrC=1C=CC(=NC1)S(=O)(=O)Cl | C5H3BrClNO2S
product | 5-bromo-N-(thiazol-2-yl)pyridine-2-sulfonamide | BrC=1C=CC(=NC1)S(=O)(=O)NC=1SC=CN1 | C8H6BrN3O2S2
